US04178380
6-Chloro-4-hydroxy-N-(2-propenyl)-2H-1-benzopyran-2-carboxamide (cis) (7)
A solution of 512 mg of the ethyl ester of 6-chloro-3,4-dihydro-4-hydroxy-2H-1-benzopyran-2-carboxylic acid, (prepared by treating the ethyl ester of 6-chloro-3,4-dihydro-4-oxo-2H-1-benzopyran-2-carboxylic acid (Witiak et al., supra) with sodium borohydride), 570 mg of 2-propenamine and 20 ml of ethanol was stirred at room temperature for 72 hours, then stirred for 3 hours while heated by a steam bath. The solvent was stripped off and the residue was crystallized from methylene chloride/hexane to give 7, as white crystals, mp: 129°-130.5° C.

reactant | 6-chloro-3,4-dihydro-4-hydroxy-2H-1-benzopyran-2-carboxylic acid | ClC=1C=CC2=C(C(CC(O2)C(=O)O)O)C1 | C10H9ClO4
reactant | 6-chloro-3,4-dihydro-4-oxo-2H-1-benzopyran-2-carboxylic acid | ClC=1C=CC2=C(C(CC(O2)C(=O)O)=O)C1 | C10H7ClO4
reactant | sodium borohydride | [BH4-].[Na+]
reactant | 2-propenamine | 570 mg | C(C=C)N | C3H7N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 6-Chloro-4-hydroxy-N-(2-propenyl)-2H-1-benzopyran-2-carboxamide | ClC=1C=CC2=C(C(=CC(O2)C(=O)NCC=C)O)C1 | C13H12ClNO3
